US07320994B2
(2-Chloro-phenyl)-(2-prop-1-ynyl-pyridin-3-yl)-methanone
Dissolve (2-bromo-pyridin-3-yl)-(2-chloro-phenyl)-methanone (18.0 g, 60.8 mmol) in toluene (600 mL) and purge the solution with nitrogen. After 10 minutes., add tributyl(1-propynyl)tin (22.2 mL, 72.9 mmol) followed by tetrakis(triphenylphosphine)palladium (2.10 g, 1.82 mmol) and heat the mixture to reflux temperature. After 2 hours, cool the mixture to room temperature and concentrate. Purification by flash chromatography on silica gel eluting with hexanes:ethyl acetate (5:1 to 2:1) gives the title compound: m.p.=45-49° C.; mass spectrum (m/e): 256 (M+H+); 1H NMR (CDCl3) δ 8.67-8.68 (m, 1H), 7.95-7.98 (m, 1H), 7.32-7.55 (m, 5H), 1.74 (s, 3H); HPLC 98.4%; TLC (Silica, 2:1 Hexanes:Ethyl Acetate) Rf 0.20.

reactant | (2-bromo-pyridin-3-yl)-(2-chloro-phenyl)-methanone | 60.8 mmol, 18.0 g | BrC1=NC=CC=C1C(=O)C1=C(C=CC=C1)Cl | C12H7BrClNO
reactant | tributyl(1-propynyl)tin | 72.9 mmol, 22.2 mL | C(CCC)[Sn](C#CC)(CCCC)CCCC
solvent | toluene | 600 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 1.82 mmol, 2.10 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (2-Chloro-phenyl)-(2-prop-1-ynyl-pyridin-3-yl)-methanone | ClC1=C(C=CC=C1)C(=O)C=1C(=NC=CC1)C#CC | C15H10ClNO
